US07319103B2
To a solution of 10-chloro-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene (221 mg, 1.0 mmol) in toluene (4 mL) was added 4-benzyloxyphenyl boronic acid (100 mg, 2.0 mmol), tetrakis(triphenylphosphine) palladium (5.7 mg, 0.0047 mmol), and 2M aq Na2CO3 (1.0 mL, 2.0 mmol). The reaction was flushed with argon and stirred at 80° C. overnight. The solution was cooled, followed by dilution with EtOAc (3 mL). The organic layer was washed with H2O, brine, dried over MgSO4, and concentrated. The residue was purified via flash chromatography (5-30% EtOAc/Hexane) to provide 10-(4-benzyloxy-phenyl)-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene (200 mg, 54% yield).

reactant | 10-chloro-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | 1.0 mmol, 221 mg | ClC=1N2N=CC=C2N=C2C1CCCCC2 | C11H12ClN3
reactant | 4-benzyloxyphenyl boronic acid | 2.0 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | Na2CO3 | 2.0 mmol, 2M, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 0.0047 mmol, 5.7 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 10-(4-benzyloxy-phenyl)-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | 200 mg, 54% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C24H23N3O
